US03984419
A. 1-(1,2,3,4,4a,5,8,9a-Octahydrofluoren-2-yl)pyrrolidine
A solution of 20.1 g (0.084 moles) of 1-(1,2,3,4-tetrahydrofluoren-2-yl)pyrrolidine, prepared as per Example 7, in 400 ml of tetrahydrofuran and 100 ml of ether is added to 2.5 l of liquid ammonia. 12.25 g (1.72 g-atoms) of lithium ribbon is added over 25 min and the mixture stirred for 15 minutes. 160 ml of ethanol is added over 2.5 hr., the ammonia evaporated and the residue added to 1 liter of cold water. The layers are separated and the aqueous layer is extracted with ether (2 × 300 ml). The combined ether layers are washed, dried and evaporated in vacuo to give 20.2 g of oil of the above title.

reactant | 1-(1,2,3,4-tetrahydrofluoren-2-yl)pyrrolidine | 0.084 moles, 20.1 g | C1C(CCC=2C3=CC=CC=C3CC12)N1CCCC1 | C17H21N
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ammonia | N | H3N
reactant | lithium | 12.25 g | [Li] | Li
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 1-(1,2,3,4,4a,5,8,9a-Octahydrofluoren-2-yl)pyrrolidine | 20.2 g | C1C(CCC2C=3CC=CCC3CC12)N1CCCC1 | C17H25N
